US06280893B1
To a solution of 5.0 g of 2,6-di-t-butyl-p-cresol in 90 ml of acetonitrile/water (5/1) was added 10.5 g of bistrifluoroacetoxyiodobenzene with stirring at 0° C. After stirring for 30 minutes, 90 ml of water was added and the reaction solution was extracted three times with 50 ml of dichloromethane and washed four times with 60 ml of water. Organic layers were dried over anhydrous sodium sulfate, then concentrated under reduced pressure and the precipitating crystal was filtered to give a crude crystal, which was recrystallized from hexane to give 4-methyl-4-hydroxy-2,6-di-t-butylcyclohexa-2,5-diene-1-one as a pale yellow solid. The yield was 3.0 g (55%).

reactant | 2,6-di-t-butyl-p-cresol | 5.0 g | C(C)(C)(C)C1=CC(=CC(=C1O)C(C)(C)C)C | C15H24O
reactant | bistrifluoroacetoxyiodobenzene | 10.5 g | FC(C(=O)OC=1C(=C(C=CC1)I)OC(C(F)(F)F)=O)(F)F | C10H3F6IO4
reactant | water | 90 ml | O | H2O
solvent | acetonitrile water | 90 ml | C(C)#N.O
product | 4-methyl-4-hydroxy-2,6-di-t-butylcyclohexa-2,5-diene-1-one | CC1(C=C(C(C(=C1)C(C)(C)C)=O)C(C)(C)C)O | C15H24O2
